US04344945
1-Benzyl-4-[N-(o-hydroxybenzyl)-amino]-piperidine
In this reference example, 9.76 g of salicylaldehyde, 15.12 g of 1-benzyl-4-amino-piperidine and 100 ml of methanol are mixed and stirred at room temperature for one hour. While the resultant mixture is cooled with ice, 3.2 g of sodium borohydride is added thereto over a period of one hour and 30 minutes. Then, the mixture is stirred at room temperature for 2 hours. The resultant reaction mixture is poured into 1 l of ice water. The light yellow crystals deposited are separated by filtration and then dissolved in 200 ml of ethyl acetate. The ethyl acetate solution is washed with a saturated aqueous sodium chloride, dried and subsequently concentrated under reduced pressure to obtain 19.0 g of light yellow crystals. The crystals are recrystallized from ethanol to obtain 12.0 g of the desired product.

reactant | salicylaldehyde | 9.76 g | C(C=1C(O)=CC=CC1)=O | C7H6O2
reactant | 1-benzyl-4-amino-piperidine | 15.12 g | C(C1=CC=CC=C1)N1CCC(CC1)N | C12H18N2
reactant | sodium borohydride | 3.2 g | [BH4-].[Na+]
solvent | methanol | 100 ml | CO | CH4O
product | 1-Benzyl-4-[N-(o-hydroxybenzyl)-amino]-piperidine | 19.0 g | C(C1=CC=CC=C1)N1CCC(CC1)NCC1=C(C=CC=C1)O | C19H24N2O
